US06632919B1
Methyl N-((7-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate
To a precooled (0° C.) solution of (7-methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetic acid (0.995 g, 4.60 mmol) and DhbtOH (0.744 g, 4.60 mmol) in DMF (25 mL)was added DCC (1.04 g, 5.00 mmol) and the mixture was stirred for 40 min at 0° before addition of ethyl N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate (1.10 g, 5.0 mmol). This mixture was stirred at rt overnight, evaporated in vacuo, redissolved in ethyl acetate (75 mL) and washed with 5% aqueous NaHCO3 (3×25 mL) and with brine (2×25 mL). The organic phase was dried over MgSO4, filtered and evaporated in vacuo. The crude product purified on silica using dichloromethane/methanol (90:10 v/v) as the eluent. Fractions containing the product were pooled and evaporated in vacuo to yield the desired product (790 mg, 41%) (mp 98-100° C.). 1H NMR (DMSO-d6; this compound exist as two rotamers; chemical shifts for the minor rotamer is given in brackets): δ 12.05 (s br, 1H), 7.91 (7.96) (d, 8.0 Hz, 1H), 7.74 (7.71) (s, 1H), 7.10 (d, 8.0 Hz, 1H), 6.90 (6.99) (m, 1H), 4.05 (4.36) (s, 2H), 4.09 (q, J=5.2 Hz, 3H), 3.63 (s, 3H), 3.47 (m, 2H), 3.17 (s, 2H), 3.16 (s, 3H), 1.36 (1.35) (s, 9H). 13C NMR (DMSO-d6): δ 170.44 (170.66), 170.11, 162.65 (162.73), 159.22, 155.83 (155.71), 148.99, 136.43 (136.77), 136.04 (136.17), 128.61 (128.29), 118.21, 112.00 (112.07), 78.04, 51.81 (52.20), 47.63 (48.20), 38.59 (38.45), 33.42 (33.75), 28.27, 24.22. FAB+ HRMS: 433.2086, calc. C21H29N4O6 433.2087.

reactant | (7-methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetic acid | 4.60 mmol, 0.995 g | CC1=CC=C2C=C(C(NC2=N1)=O)CC(=O)O | C11H10N2O3
reactant | DCC | 5.00 mmol, 1.04 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ethyl N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate | 5.0 mmol, 1.10 g | C(C)(C)(C)OC(=O)NCCNCC(=O)OCC | C11H22N2O4
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Methyl N-((7-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate | 790 mg, 41% | CC1=CC=C2C=C(C(NC2=N1)=O)CC(=O)N(CC(=O)OC)CCNC(=O)OC(C)(C)C | C21H28N4O6
